US09056874B2
(±)-2-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1H-indol-4-yl)-2,2,2-trifluoroethoxy)acetic acid
A solution of a mixture of (±)-ethyl 2-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoroethoxy)acetate and (±)-ethyl 2-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoroethoxy)acetate (153 mg, 0.199 mmol) and HCl (1.25 M in MeOH) (1592 μL, 1.990 mmol) was allowed to stir at 60° C. for 0.5 h. The reaction was cooled to rt and concentrated. A suspension of the residue and KOH (112 mg, 1.99 mmol) in EtOH (2 mL) was allowed to stir at 100° C. for 1 h under microwave irradiation. The reaction mixture was concentrated. The crude was purified by HPLC (HC-A) to give the title compound. 1H NMR (TFA salt, 400 MHz, CD3OD) δ 8.05 (s, 1H), 7.71 (br. d, J=8.34 Hz, 1H), 7.61 (dd, J=1.51, 8.59 Hz, 1H), 7.06 (br. s, 1H), 6.92 (s, 1H), 6.11 (br. s, 1H), 4.17 (d, J=16.17 Hz, 1H), 3.95 (d, J=16.17 Hz, 1H), 2.70-2.85 (br. m, 1H), 2.49 (s, 3H), 2.33-2.44 (br. m, 1H) 1.06 (br. t, 3H). HRMS calcd. for C23H19F3N4O3 (M+H)+ 457.1488. found 457.1474.

reactant | (±)-ethyl 2-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoroethoxy)acetate | C(#N)C1=CC2=C(N(C(=N2)C(C(F)(F)F)(OCC(=O)OCC)C2=C3C=CN(C3=C(C=C2CC)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C=C1 | C38H43F3N4O6SSi
reactant | (±)-ethyl 2-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-2,2,2-trifluoroethoxy)acetate | 0.199 mmol, 153 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C(F)(F)F)(OCC(=O)OCC)C2=C3C=CN(C3=C(C=C2CC)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C1 | C38H43F3N4O6SSi
reactant | HCl | 1.990 mmol, 1.25 M, 1592 μL | Cl | ClH
reactant | KOH | 1.99 mmol, 112 mg | [OH-].[K+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | (±)-2-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1H-indol-4-yl)-2,2,2-trifluoroethoxy)acetic acid | C(#N)C1=CC2=C(NC(=N2)C(C(F)(F)F)(OCC(=O)O)C2=C3C=CNC3=C(C=C2CC)C)C=C1 | C23H19F3N4O3
